US07425634B2
(1a) (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl methanesulfonate
(4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methanol (2.5 g, 8.35 mmol as the water content was regarded as 7.28%) was dissolved in toluene and the mixture was subjected twice to azeotropic dehydration. The residue was dissolved in tetrahydrofuran (30 ml). To the solution, triethylamine (2.33 ml, 16.7=mol) was added and the mixture was stirred in nitrogen atmosphere under ice-cool. Further, methanesulfonyl chloride (0.766 ml, 10 mmol) was added dropwise at an inner temperature below 11.5° C. for 2 minutes. The reaction mixture was stirred for 13 minutes under the same conditions, diluted with ethyl acetate and washed with a saturated aqueous sodium hydrogencarbonate solution and a saturated saline solution. The organic layer was dried over magnesium sulfate and filtrated through silica gel and the filtrate was concentrated under reduced pressure to obtain the title compound (2.8 g, 93.3%) as a light orange solid.

reactant | (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methanol | CC1(OCC(CO1)COC1=C(C(=NC=C1C)CO)C)C | C15H23NO4
reactant | water | O | H2O
reactant | triethylamine | 2.33 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 10 mmol, 0.766 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl methanesulfonate | 2.8 g, 93.3% | CS(=O)(=O)OCC1=NC=C(C(=C1C)OCC1COC(OC1)(C)C)C | C16H25NO6S
